US07977387B2
(4-Bromo-2-chloro-phenyl)-(2-chloro-5-methoxy-phenyl)-methanol (Compound 521)
To a solution of 4-bromo-2-chloro-1-iodo-benzene (10.0 g, 31.5 mmol) in THF (120 ml) was added 2 M solution of isopropylmagnesium chloride in THF (17.3 ml, 34.60 mmol) at −65° C. The reaction mixture was stirred at −40° C. for 20 min. After 2-chloro-5-methoxy-benzaldehyde (5.5 g, 32.20 mmol) was added, the reaction mixture was warmed to room temperature and stirred overnight. Then the solution was quenched with saturated aqueous solution of NH4Cl. The aqueous phase was extracted twice with diethyl ether. The combined organic phases were dried over MgSO4 and concentrated in vacuo. The crude material was purified by chromatography (petroleum ether/CH2Cl2 1:1) to provide title compound as a yellowish oil.

reactant | 4-bromo-2-chloro-1-iodo-benzene | 31.5 mmol, 10.0 g | BrC1=CC(=C(C=C1)I)Cl | C6H3BrClI
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-chloro-5-methoxy-benzaldehyde | 32.20 mmol, 5.5 g | ClC1=C(C=O)C=C(C=C1)OC | C8H7ClO2
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 34.60 mmol, 17.3 ml | C1CCOC1 | C4H8O
product | (4-Bromo-2-chloro-phenyl)-(2-chloro-5-methoxy-phenyl)-methanol | BrC1=CC(=C(C=C1)C(O)C1=C(C=CC(=C1)OC)Cl)Cl | C14H11BrCl2O2
